US07300949B2
5.4 5-Benzoylamino-1-phenyl-1H-pyrazolo[3,4-d]thiazole-3-carboxylic acid ethyl ester
1-Phenyl-5-[3-benzoyl-thioureido]-1H-pyrazole-3-carboxylic acid ethyl ester (500 mg, 1.26 mmol) was dissolved in 25 ml anhydrous CHCl3. N-Bromosuccinimide (225 mg, 1.26 mmol) was added portion wise in 5-10 minutes at 0° C. The reaction mixture was stirred at room temperature for 2 hours. After the completion of reaction, 100 ml of CHCl3 was added to the reaction flask and the organic layer was washed with NaHCO3 (2×30 ml), followed by brine, and dried over Na2SO4. Removal of the solvent gave product, which was sufficiently pure (>95%) for use in the following step. The crude product was further purified by SiO2 column to give 450 mg of title compound (Yield: 91%).

reactant | 1-Phenyl-5-[3-benzoyl-thioureido]-1H-pyrazole-3-carboxylic acid ethyl ester | 1.26 mmol, 500 mg | C(C)OC(=O)C1=NN(C(=C1)NC(=S)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H18N4O3S
reactant | N-Bromosuccinimide | 1.26 mmol, 225 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Benzoylamino-1-phenyl-1H-pyrazolo[3,4-d]thiazole-3-carboxylic acid ethyl ester | 450 mg, Yield: 91% | C(C)OC(=O)C1=NN(C=2N=C(SC21)NC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | C20H16N4O3S
